US07615569B2
5.6.a Preparation of 4-{5-[3-(2,4-dichloro-phenoxy)-propyl]-2H-pyrazol-3-yl}-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide, 38
A large excess of manganese oxide was added to 4-{5-[3-(2,4-dichloro-phenoxy)-propyl]-3,4-dihydro-2H-pyrazol-3-yl}-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide (0.259 mmol) in chloroform (20 mL). After stirring for 4 h the solution was filtered thorough Celite and concentrated in vacuo. The crude 4-{5-[3-(2,4-dichloro-phenoxy)-propyl]-2H-pyrazol-3-yl}-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide was used without further purification.

reactant | 4-{5-[3-(2,4-dichloro-phenoxy)-propyl]-3,4-dihydro-2H-pyrazol-3-yl}-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide | 0.259 mmol | ClC1=C(OCCCC=2CC(NN2)C2=CC=C(C=C2)S(=O)(=O)N(C=2SC=CN2)COC)C=CC(=C1)Cl | C23H24Cl2N4O4S2
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese oxide | [O-2].[Mn+2]
product | 4-{5-[3-(2,4-dichloro-phenoxy)-propyl]-2H-pyrazol-3-yl}-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide | ClC1=C(OCCCC=2C=C(NN2)C2=CC=C(C=C2)S(=O)(=O)N(C=2SC=CN2)COC)C=CC(=C1)Cl | C23H22Cl2N4O4S2
